US05624943
Under the conditions of example 21 C, 2 g of N-[3-(2-trimethylsilylethinyl)-phenyl]-1,1,1-trifluoromethanesulfonamide is reacted with 6.9 ml of a 1-molar solution of tetrabutylammonium fluoride in tetrahydrofuran and worked up. 387 mg of N-(3-ethinylphenyl)-1,1,1-trifluoromethanesulfonamide is obtained as oily crude product.

reactant | N-[3-(2-trimethylsilylethinyl)-phenyl]-1,1,1-trifluoromethanesulfonamide | 2 g | C[Si](C#CC=1C=C(C=CC1)NS(=O)(=O)C(F)(F)F)(C)C | C12H14F3NO2SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(3-ethinylphenyl)-1,1,1-trifluoromethanesulfonamide | 387 mg | C(#C)C=1C=C(C=CC1)NS(=O)(=O)C(F)(F)F | C9H6F3NO2S
